US04237067
N-(3-dimethylaminopropyl)acrylamide.
59.3 g of β-hydroxypropionic acid amide and 68 g of 3-dimethylaminopropylamine were heated for 5 hours in a temperature range of 125°-168° C. until the evolution of ammonia was complete. After adding 1 g of pulverised sodium hydroxide the reaction mixture was distilled.

reactant | β-hydroxypropionic acid amide | 59.3 g | OCCC(=O)N | C3H7NO2
reactant | 3-dimethylaminopropylamine | 68 g | CN(CCCN)C | C5H14N2
reactant | ammonia | N | H3N
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
product | N-(3-dimethylaminopropyl)acrylamide | CN(CCCNC(C=C)=O)C | C8H16N2O
